US06172057B2
2-Methyl-2-(2-methyl-furan-3-sulfonyl)-3-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-propionic acid was prepared according to the general method as outlined in example 1. Starting from 2-methyl-2-(2-methyl-furan-3-sulfonyl)-3-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-propionic acid ethyl ester (2.01 g, 4.5 mmol), dissolved in ethanol (20 mL) and 10 N sodium hydroxide (10 mL). The resulting mixture was worked up as outline in example 9. Yield 2.03g; amber crystals mp 66-68° C.; MS 434 (M−H).

reactant | 2-methyl-2-(2-methyl-furan-3-sulfonyl)-3-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-propionic acid ethyl ester | 4.5 mmol, 2.01 g | C(C)OC(C(CC1=CC=C(C=C1)OCCN1CCCCC1)(S(=O)(=O)C1=C(OC=C1)C)C)=O | C24H33NO6S
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 10 N, 10 mL | [OH-].[Na+]
product | 2-Methyl-2-(2-methyl-furan-3-sulfonyl)-3-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCN1CCCCC1)S(=O)(=O)C1=C(OC=C1)C | C22H29NO6S
